US08017611B2
4-bromo-N-methyl-1H-pyrazole-3-carboxamide (550 mg), potassium carbonate (579 mg) and tert-butyl 4-methylsulfonyloxypiperidine-1-carboxylate (1081 mg) in acetonitrile (20 mL) were stirred at 90° C. overnight. The mixture was concentrated and the residue was dissolved in ethyl acetate, washed with water, brine dried over magnesium sulfate and concentrated. The crude product was purified by flash chromatography on silica gel eluting with 40 to 70% ethyl acetate in petroleum ether. The solvent was evaporated to dryness to afford tert-butyl 4-[4-bromo-3-(methylcarbamoyl)pyrazol-1-yl]piperidine-1-carboxylate (436 mg) as a off-white solid. The product gave the following characterizing data: NMR Spectrum: (DMSOd6) 1.42 (s, 9H), 1.79 (dd, 1H), 1.84 (dd, 1H), 1.97-2.05 (m, 2H), 2.71 (d, 3H), 2.91 (bs, 2H), 3.97-4.13 (m, 2H), 4.33-4.43 (m, 1H), 8.05 (q, 1H), 8.15 (s, 1H); Mass spectrum: M+H+ 386-388.

reactant | 4-bromo-N-methyl-1H-pyrazole-3-carboxamide | 550 mg | BrC=1C(=NNC1)C(=O)NC | C5H6BrN3O
reactant | potassium carbonate | 579 mg | C([O-])([O-])=O.[K+].[K+]
reactant | tert-butyl 4-methylsulfonyloxypiperidine-1-carboxylate | 1081 mg | CS(=O)(=O)OC1CCN(CC1)C(=O)OC(C)(C)C | C11H21NO5S
solvent | acetonitrile | 20 mL | C(C)#N | C2H3N
product | tert-butyl 4-[4-bromo-3-(methylcarbamoyl)pyrazol-1-yl]piperidine-1-carboxylate | 436 mg | BrC=1C(=NN(C1)C1CCN(CC1)C(=O)OC(C)(C)C)C(NC)=O | C15H23BrN4O3
